### PR TITLE
[ add ] `filter-∩`, `filter-map` and `filter-swap` for `Data.List.Properties`

### PR DESCRIPTION
**Pull request by IchiganCS**
I recently was surprised that the standard library doesn't prove these two laws, so I quickly added them.

```agda
filter-∩    : filter (P? ∩? Q?) ≗ filter P? ∘ filter Q?
filter-swap : filter P? ∘ filter Q? ≗ filter Q? ∘ filter P?
```

I hope I followed all guidelines etc.
There is one thing where opinions can differ in style: `filter-swap` could either be proven by directly pattern matching on `P? x` and `Q? x` respectively, but I feel like using propositional equality is more elegant. The downside is the additional module definition (which could maybe be written differently? - I'm new to Agda).

Edit:   
```agda
map-filter-swap   : ∀ {P : Pred B p} (f : A → B) (p? : Decidable₁ P) 
                    → filter p? ∘ map f ≗ map f ∘ filter (p? ∘ f)
```
would also be a nice addition.

### CODE REVIEW

File: src/Data/List/Properties.agda [hunk 1]
```diff
@@ -1266,6 +1266,25 @@ module _ {P : Pred A p} {Q : Pred A q} (P? : Decidable P) (Q? : Decidable Q) whe
   ... | yes P[x] = trans (cong (x ∷_) (filter-≐ P≐Q xs)) (sym (filter-accept Q? (proj₁ P≐Q P[x])))
   ... | no ¬P[x] = trans (filter-≐ P≐Q xs) (sym (filter-reject Q? (¬P[x] ∘ proj₂ P≐Q)))
 
+  filter-∩ : filter (P? ∩? Q?) ≗ filter P? ∘ filter Q?
+  filter-∩ [] = refl
+  filter-∩ (x ∷ xs) with P? x | Q? x
+  ... | yes P[x] | yes _  = trans (cong (x ∷_) (filter-∩ xs)) (sym (filter-accept P? P[x]))
+  ... | no ¬P[x] | yes _  = trans (filter-∩ xs) (sym (filter-reject P? ¬P[x]))
+  ... | yes _    | no  _  = filter-∩ xs
+  ... | no  _    | no  _  = filter-∩ xs
```
Comment (jamesmckinna) [inline src/Data/List/Properties.agda]: You can improve the sharing of the recursive call (and hence making things a bit more readable/DRY) by using the new `using` LHS directive:
```suggestion
filter-∩ (x ∷ xs) using ih ← filter-∩ xs with P? x | Q? x
  ... | yes P[x] | yes _  = trans (cong (x ∷_) ih) (sym (filter-accept P? P[x]))
  ... | no ¬P[x] | yes _  = trans ih (sym (filter-reject P? ¬P[x]))
  ... | yes _    | no  _  = ih
  ... | no  _    | no  _  = ih
```

File: src/Data/List/Properties.agda [hunk 2]
```diff
@@ -1266,6 +1266,25 @@ module _ {P : Pred A p} {Q : Pred A q} (P? : Decidable P) (Q? : Decidable Q) whe
...
+
+
+module _ {P : Pred A p} {Q : Pred A q} (P? : Decidable P) (Q? : Decidable Q) where
+
+  filter-swap : filter P? ∘ filter Q? ≗ filter Q? ∘ filter P?
+  filter-swap ls =  begin
+    filter P? (filter Q? ls)   ≡⟨ sym (filter-∩ P? Q? ls) ⟩
```
Comment (jamesmckinna) [inline src/Data/List/Properties.agda]: Here I would avoid explicit `sym` via the new (since v2.0!) syntax
```suggestion
    filter P? (filter Q? ls)   ≡⟨ filter-∩ P? Q? ls ⟨
```

**Review by jamesmckinna — APPROVED** [review]
Thanks very much for the first PR!

With some suggestions for streamlining your submitted code.

**Comment by jamesmckinna** [comment]
As for your proposed
> ```agda
> map-filter-swap   : ∀ {P : Pred B p} (f : A → B) (p? : Decidable₁ P) 
>                     → filter p? ∘ map f ≗ map f ∘ filter (p? ∘ f)
> ```
> 
> would also be a nice addition.

That seems good, too, but think that `filter-map` would be a name more in line with our conventions.

As for direct-style proofs vs. appeal to existing lemmas, and use of function equalities, the latter as you have chosen, does seem nice. If there are opportunities to refactor later, the let's do that later. For now, a nice first contribution!

File: src/Data/List/Properties.agda (hunk 1 above)
Comment (IchiganCS) [reply src/Data/List/Properties.agda]: Yes, seems more in style with the other functions in that file. Thanks for pointing that out.

File: src/Data/List/Properties.agda (hunk 2 above)
Comment (IchiganCS) [reply src/Data/List/Properties.agda]: I didn't know about that syntax! Thanks! Will use that for some other projects I'm working on too.

**Comment by IchiganCS** [comment]
I added the `filter-map`  (much better name, true) and also integrated the minor readability fixes you suggested - thanks for your kind suggestions!

**Comment by jamesmckinna** [comment]
And you'll need to add a `CHANGELOG` entry with the new additions...

**Comment by IchiganCS** [comment]
Sorry for that oversight - i was so eager to install `fix-whitespace` and run it that I forgot that -_-

Done now! Sorry for the many commits, I think squashing them would be best.

**Comment by jamesmckinna** [comment]
> Sorry for that oversight - i was so eager to install `fix-whitespace` and run it that I forgot that -_-
> 
> Done now! Sorry for the many commits, I think squashing them would be best.

We squash on merge.

File: CHANGELOG.md [hunk 3]
```diff
@@ -259,6 +259,13 @@ Additions to existing modules
   map : P ⊆ Q → All P xs → All Q xs
   ```
 
+* In `Data.List.Properties`:
+  ```
+  filter-map : (f : B → A) → filter P? ∘ map f ≗ map f ∘ filter (P? ∘ f)
+  filter-∩ : filter (P? ∩? Q?) ≗ filter P? ∘ filter Q?
+  filter-swap : filter P? ∘ filter Q? ≗ filter Q? ∘ filter P?
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Two quick nit picks:
* for each block of additions, we tend to align the ` : ` for readability
* just as for the second and third, there's no need to mention the quantification over `P?`, `Q?` etc., neither is it really necessary to mention the `f` binding in the first one...

The last point may be more of an individual opinion than canon, but AFAIAC, the reader who wants to know the details of implicit vs. explicit quantification can, and will do so in the source. At the current moment of writing, we don't attempt to machine-check any validity criteria for `CHANGELOG`s, so they can only be considered advisory, rather than definitive!

File: src/Data/List/Properties.agda [hunk 4]
```diff
@@ -1266,6 +1272,25 @@ module _ {P : Pred A p} {Q : Pred A q} (P? : Decidable P) (Q? : Decidable Q) whe
...
+
+
+module _ {P : Pred A p} {Q : Pred A q} (P? : Decidable P) (Q? : Decidable Q) where
+
+  filter-swap : filter P? ∘ filter Q? ≗ filter Q? ∘ filter P?
+  filter-swap ls =  begin
+    filter P? (filter Q? ls)   ≡⟨ filter-∩ P? Q? ls ⟨
+    filter (P? ∩? Q?) ls       ≡⟨ filter-≐ (P? ∩? Q?) (Q? ∩? P?) (swap , swap) ls ⟩
+    filter (Q? ∩? P?) ls       ≡⟨ filter-∩ Q? P? ls ⟩
+    filter Q? (filter P? ls)   ∎
```
Comment (jamesmckinna) [inline src/Data/List/Properties.agda]: Final nitpick: variable naming convention for arbitrary lists
```suggestion
  filter-swap xs =  begin
    filter P? (filter Q? xs)   ≡⟨ filter-∩ P? Q? xs ⟨
    filter (P? ∩? Q?) xs       ≡⟨ filter-≐ (P? ∩? Q?) (Q? ∩? P?) (swap , swap) xs ⟩
    filter (Q? ∩? P?) xs       ≡⟨ filter-∩ Q? P? xs ⟩
    filter Q? (filter P? xs)   ∎
```
